US08278295B2
Preparation of 2-(azetidin-3-yloxy)pyridine
Preparation of compound P21. Compound P21 was prepared by deprotection of C73 with trifluoroacetic acid as described for t-butyl 3-hydroxyazetidine-1-carboxylate in the preparation of C19 in Example 3, before being used in the coupling step.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl 3-hydroxyazetidine-1-carboxylate | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
product | 2-(azetidin-3-yloxy)pyridine | N1CC(C1)OC1=NC=CC=C1 | C8H10N2O
